US07825114B2
Preparation of Trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-{4-[3-(2-fluoro-phenyl)-ureido]-phenyl}-pyridin-2-yl ester
In analogy to GP 4, reaction of 200 mg trifluoromethanesulphonic acid 4-(4-amino-phenyl)-3-cyano-6-cyclopropyl-pyridin-2-yl ester (0.522 mmol) and 71 μl 1-fluoro-2-isocyanato-benzene yielded 179 mg product (0.343 mmol, 66% yield).

reactant | trifluoromethanesulphonic acid 4-(4-amino-phenyl)-3-cyano-6-cyclopropyl-pyridin-2-yl ester | 0.522 mmol, 200 mg | NC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1CC1)OS(=O)(=O)C(F)(F)F)C#N | C16H12F3N3O3S
reactant | 1-fluoro-2-isocyanato-benzene | 71 μl | FC1=C(C=CC=C1)N=C=O | C7H4FNO
product | Trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-{4-[3-(2-fluoro-phenyl)-ureido]-phenyl}-pyridin-2-yl ester | 0.343 mmol, 179 mg, 66% yield | C(#N)C=1C(=NC(=CC1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)C1CC1)OS(=O)(=O)C(F)(F)F | C23H16F4N4O4S
